US04927958
A solution of 10.7 g (43.4 mmol) of methyl (E)-4-hydroxy-6-(4-methoxyphenyl)-5-hexen-2-ynoate in 150 ml of methylene chloride was added dropwise at 0° to a suspension of 56.7 g (652 mmol) of manganese dioxide in 200 ml of methylene chloride. The reaction mixture was stirred at 0° for 2 hours, filtered over magnesium sulphate and concentrated. Crystallization of the residue from ether yielded methyl (E)-6-(4-methoxyphenyl)-4-oxo-5-hexen-2-ynoate of melting point 70°.

reactant | methyl (E)-4-hydroxy-6-(4-methoxyphenyl)-5-hexen-2-ynoate | 43.4 mmol, 10.7 g | OC(C#CC(=O)OC)\C=C\C1=CC=C(C=C1)OC | C14H14O4
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 652 mmol, 56.7 g | [O-2].[O-2].[Mn+4]
product | methyl (E)-6-(4-methoxyphenyl)-4-oxo-5-hexen-2-ynoate | COC1=CC=C(C=C1)/C=C/C(C#CC(=O)OC)=O | C14H12O4
